US05143920
Cyclohexanone 4-nitro-3,5-dimethyl-1,2-phenylene ketal (10.0 g) and 10% palladium on charcoal (1.0 g) in ethanol (200 ml) was shaken in a hydrogen atmosphere (50 p.s.i.) at 45° C. for 3 hours. The mixture was filtered through celite and evaporated to leave cyclohexanone 4-amino-3,5-dimethyl-1,2-phenylene ketal (8.0 g, 90%) as a brown oil.

reactant | Cyclohexanone 4-nitro-3,5-dimethyl-1,2-phenylene ketal | 10.0 g | [N+](=O)([O-])C1=C(C2=C(C=C1C)OC1(CCCCC1)O2)C | C14H17NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | cyclohexanone 4-amino-3,5-dimethyl-1,2-phenylene ketal | 8.0 g, 90% | NC1=C(C2=C(C=C1C)OC1(CCCCC1)O2)C | C14H19NO2
